US04304770
Ethyl 2-hydroxyimino-2-(2-aminothiazol-4-yl)acetate (syn isomer) (126.4 g), formic acid (81.3 g) and acetic anhydride (180 g) were treated in a similar manner to that of Preparation 12 to give ethyl 2-hydroxyimino-2-(2-formamidothiazol-4-yl)acetate (syn isomer) (109.6 g).

reactant | Ethyl 2-hydroxyimino-2-(2-aminothiazol-4-yl)acetate | 126.4 g | ON=C(C(=O)OCC)C=1N=C(SC1)N | C7H9N3O3S
reactant | acetic anhydride | 180 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 81.3 g | C(=O)O | CH2O2
product | ethyl 2-hydroxyimino-2-(2-formamidothiazol-4-yl)acetate | 109.6 g | ON=C(C(=O)OCC)C=1N=C(SC1)NC=O | C8H9N3O4S
